US04137310
Preparation of 2-Iodo-p-phenylenediamine
A mixture of concentrated hydrochloric acid (150 ml) and 2-iodo-4-nitroaniline (30.0 g) is stirred and warmed to 45°-50° C. A solution of stannous chloride dihydrate (90.0 g) in concentrated hydrochloric acid (110 ml) is added while maintaining the reaction temperature at 65°-70° C. After the addition is completed, the mixture is cooled in an ice bath and 50% sodium hydroxide (250ml) is added slowly. The mixture is filtered and the isolated damp solid is stirred in 600 ml water at reflux. The solution is decolorized with charcoal, filtered and cooled to afford 5.55 g of title compound, m.p. 95°-99° C.

reactant | 2-iodo-4-nitroaniline | 30.0 g | IC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5IN2O2
reactant | sodium hydroxide | 250ml | [OH-].[Na+]
solvent | hydrochloric acid | 110 ml | Cl | ClH
solvent | hydrochloric acid | 150 ml | Cl | ClH
product | 2-Iodo-p-phenylenediamine | 5.55 g | IC1=C(C=CC(=C1)N)N | C6H7IN2
